US03998958
The hydrochloride salt of 2-imino-1-methylpyrrolidine (13.46 g.; 0.1 mole) is converted to free base by adding 10 ml. of 50% NaOH and extracting into benzene. After drying over K2CO3, the benzene layer is stirred at room temperature and 8.48 g. (0.05 mole) of N-methyl-phenylcarbamoyl chloride (prepared according to the method of J. A. Aeschlimann, U.S. Pat. No. 2,449,440), dissolved in anhydrous benzene, is added dropwise to this solution. Cloudiness occurs and then solid precipitates from solution. The mixture is stirred at room temperature overnight and then filtered. The filtrate is taken to dryness in vacuo to an oily residue which is dissolved in hot hexane and filtered hot. Cooling and scratching yields crystals which are collected and recrystallized from hexane to give the pure product, 1-methyl-3-(1-methyl-2-pyrrolidylidene)-1-phenylurea, 27.5°-30° C.

reactant | 2-imino-1-methylpyrrolidine | 0.1 mole, 13.46 g | N=C1N(CCC1)C | C5H10N2
reactant | N-methyl-phenylcarbamoyl chloride | 0.05 mole | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-(1-methyl-2-pyrrolidylidene)-1-phenylurea | CN(C(=O)N=C1N(CCC1)C)C1=CC=CC=C1 | C13H17N3O
